US07906517B2
Ethyl 7-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-(2-tert-butoxy-ethyl)-amino]-heptanoate (which is prepared by treating the corresponding starting compound in a same manner as in Example 12(1)-(4)) (260 mg) is dissolved in a 4N-hydrochloric acid in ethyl acetate (4 ml) and the mixture is stirred at room temperature overnight. To the reaction solution are added a saturated aqueous sodium bicarbonate solution and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=9:1→3:2) to give ethyl 7-[(2-acetoxy-ethyl)-(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-amino]-heptanoate (162 mg). MS (m/z): 822 [M+H]+

reactant | Ethyl 7-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-(2-tert-butoxy-ethyl)-amino]-heptanoate | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)N(CCCCCCC(=O)OCC)CCOC(C)(C)C)C=C(C1)C(F)(F)F)(F)F | C40H50F9N5O4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 7-[(2-acetoxy-ethyl)-(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-amino]-heptanoate | 162 mg | C(C)(=O)OCCN(CCCCCCC(=O)OCC)C1=C(C=C(C=C1)C(F)(F)F)CN(C1=NC=C(C=N1)N1CCOCC1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C38H44F9N5O5
